US09102591B2
2,3-dichloro-N-(2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyridin-5-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyridin-5-yl)ethanamine. LCMS (MH+): m/z=440.0, tR (minutes, Method F)=2.43

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyridin-5-yl)ethanamine | N1=CC=C(C=C1)C(CN)C=1C=CC(=NC1)C(F)(F)F | C13H12F3N3
product | 2,3-dichloro-N-(2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyridin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=CC(=NC2)C(F)(F)F)C2=CC=NC=C2)C=CC=C1Cl | C20H14Cl2F3N3O
